US04477464
A mixture of 0.989 g of 3-chloro-2,3-dihydro-1,5-benzoxazepin-4(5H)-one and 1.0 g of potassium phthalimide in 5 ml of dimethylformamide is warmed to 90° overnight. The reaction mixture is poured into 20 ml of water and stirring is continued for 1 hr. Isolation by vacuum filtration and drying at 60° in vacuo affords 3-phthalimido-2,3-dihydro-1,5-benzoxazepin-4(5H)-one; m.p. 188°-193°; NMR (DMSO, d6) δ 7.95 (s, 4), 6.61-7.40 (m, 5), 4.92 (d of d, 1), 4.01 (d, 2).

reactant | 3-chloro-2,3-dihydro-1,5-benzoxazepin-4(5H)-one | 0.989 g | ClC1COC2=C(NC1=O)C=CC=C2 | C9H8ClNO2
reactant | potassium phthalimide | 1.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | 20 ml | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-phthalimido-2,3-dihydro-1,5-benzoxazepin-4(5H)-one | C1(C=2C(C(N1C1COC3=C(NC1=O)C=CC=C3)=O)=CC=CC2)=O | C17H12N2O4
